US04367235
The diamine used as intermediate is obtained by reacting the 2-(2,3-epoxypropoxy)-4-methyl-6-nitroaniline described in Example 1 with 2-propylamine to give 2-[2-hydroxy-3-(2-propylamino)-propoxy]-4-methyl-6-nitroaniline, which is then subjected to catalytic hydrogenation.

reactant | 2-(2,3-epoxypropoxy)-4-methyl-6-nitroaniline | O1C(COC2=C(N)C(=CC(=C2)C)[N+](=O)[O-])C1 | C10H12N2O4
reactant | 2-propylamine | CC(C)N | C3H9N
product | 2-[2-hydroxy-3-(2-propylamino)-propoxy]-4-methyl-6-nitroaniline | OC(COC1=C(N)C(=CC(=C1)C)[N+](=O)[O-])CNC(C)C | C13H21N3O4
